US05665718
0.66 g (2 mmol) of 3-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one were stirred at 75° overnight with 1.2 g (9.3 mmol) of dibutylamine and 10 ml of N,N-dimethylformamide. After evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate there was obtained 0.72 g (85%) of 3-(5-dibutylaminomethyl-1,3,4-oxadiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one, which was converted into the hydrochloride of m.p. 211°-213°.

reactant | 3-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 2 mmol, 0.66 g | ClCC1=NN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C15H12ClN5O2
reactant | dibutylamine | 9.3 mmol, 1.2 g | C(CCC)NCCCC | C8H19N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(5-dibutylaminomethyl-1,3,4-oxadiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.72 g, 85% | C(CCC)N(CCCC)CC1=NN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C23H30N6O2
